US08492378B2
1,1-dimethyl-2-oxo-2-[2-[[1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazol-6-yl]carbonyl]hydrazino]ethyl acetate
In the same manner as in Reference Example 129 and using 1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole-6-carbohydrazide instead of 3-bromo-1-benzofuran-5-carbohydrazide and 2-chloro-1,1-dimethyl-2-oxoethyl acetate instead of (1S)-2-chloro-1-methyl-2-oxoethyl acetate, the title compound (yield 66%) was obtained as colorless crystals.

reactant | 1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazole-6-carbohydrazide | FC(OC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)NN)(F)F | C15H11F3N4O2
reactant | 2-chloro-1,1-dimethyl-2-oxoethyl acetate | C(C)(=O)OC(C(=O)Cl)(C)C | C6H9ClO3
product | 1,1-dimethyl-2-oxo-2-[2-[[1-[4-(trifluoromethoxy)phenyl]-1H-benzimidazol-6-yl]carbonyl]hydrazino]ethyl acetate | yield 66% | C(C)(=O)OC(C(NNC(=O)C=1C=CC2=C(N(C=N2)C2=CC=C(C=C2)OC(F)(F)F)C1)=O)(C)C | C21H19F3N4O5
